US09024027B2
To a suspension of 2-(5,6-dimethoxy-1,3-dioxoisoindolin-2-yl)acetic acid (151 mg, 0.571 mmol) in DCM (25 ml), DMAP (69.8 mg, 0.571 mmol), EDC (274 mg, 1.428 mmol) and (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (200 mg, 0.476 mmol) were added in one portion at room temperature, and the resulting mixture was stirred for 4 hours. The solution was diluted with DCM (40 ml) and washed with a saturated solution of NaHCO3 (40 ml), with 1N HCl (30 ml) and finally with brine (30 ml). The organic layer was dried over sodium sulfate, filtered and evaporated to dryness. The crude was purified by crystallization from ethyl acetate (40 ml) to afford (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5,6-dimethoxy-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide as a white solid (130 mg, 0.195 mmol, 40.9% yield). MS/ESI+ 667.16 [MH]+; [αD]=−42.80, c=0.25, DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.43 (s, 2H), 7.43 (s, 2H), 7.19 (d, 1H), 7.02-7.13 (m, 1H), 6.96 (dd, 1H), 7.08 (t, 1H), 6.01 (dd, 1H), 4.37 (s, 2H), 3.96 (s, 6H), 3.92 (d, 2H), 3.39 (dd, 1H), 3.22 (dd, 1H), 1.12-1.34 (m, 1H), 0.52-0.67 (m, 2H), 0.29-0.46 (m, 2H).

reactant | 2-(5,6-dimethoxy-1,3-dioxoisoindolin-2-yl)acetic acid | 0.571 mmol, 151 mg | COC=1C=C2C(N(C(C2=CC1OC)=O)CC(=O)O)=O | C12H11NO6
reactant | EDC | 1.428 mmol, 274 mg
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.476 mmol, 200 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.571 mmol, 69.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5,6-dimethoxy-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.195 mmol, 130 mg, 40.9% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC(=C(C=C2C1=O)OC)OC)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C30H26Cl2F2N2O9
